US04348399
3-(4-Hexadecylaminophenyl)propanol
By a method analogous to that described in Example 16, ethyl 4-hexadecylaminohydrocinnamate is reduced with lithium aluminum hydride to provide the title compound.

reactant | ethyl 4-hexadecylaminohydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OCC)C=C1 | C27H47NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(4-Hexadecylaminophenyl)propanol | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CCCO | C25H45NO
